US05124350
Ethyl [3-[3-[4-(aminocarbonyl)-3-hydroxy-2-(2-propenyl)phenoxy]propoxy]-2-propylphenoxy]acetate
2,4-Dihydroxy-3-(2-propenyl)benzamide(193 mg 1.0 mmol), ethyl [3-(3-chloropropoxy)-2-propylphenoxy]acetate(386 mg, 1.0 mmol), sodium iodide (276 mg, 2.0 mmol), and potassium carbonate (276 mg, 2.0 mmol) were added to 2.0 ml of DMF, and the reaction mixture was heated in an oil bath at 40° C. overnight. The temperature was raised to 60° C., and the reaction mixture was again heated overnight. The reaction mixture was poured into 15 ml of water and extracted three times with ethyl acetate. The combined extracts were washed twice with water, dried and filtered. The solvent was removed under vacuum to give the crude product as a solid. Chromatography of the crude product on silica gel with 50/50 ethyl acetate/hexane as eluant gave the product.

reactant | 2,4-Dihydroxy-3-(2-propenyl)benzamide | 1.0 mmol, 193 mg | OC1=C(C(=O)N)C=CC(=C1CC=C)O | C10H11NO3
reactant | ethyl [3-(3-chloropropoxy)-2-propylphenoxy]acetate | 1.0 mmol, 386 mg | ClCCCOC=1C(=C(OCC(=O)OCC)C=CC1)CCC | C16H23ClO4
reactant | sodium iodide | 2.0 mmol, 276 mg | [I-].[Na+]
reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | 15 ml | O | H2O
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | Ethyl [3-[3-[4-(aminocarbonyl)-3-hydroxy-2-(2-propenyl)phenoxy]propoxy]-2-propylphenoxy]acetate | NC(=O)C1=C(C(=C(OCCCOC=2C(=C(OCC(=O)OCC)C=CC2)CCC)C=C1)CC=C)O | C26H33NO7
